US08202858B2
Cyclopropyl-(1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-ylmethyl)-carbamic Acid Tert-butyl Ester
WSCD (1.08 g, 5.6 mmol) and DMAP (343 mg, 2.8 mmol) were added to a solution of 4-(3-{4-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidin-1-yl}-3-oxo-propyl)-3-methyl-benzoic acid from Example E86.2 (1.25 g, 2.8 mmol) in dichloromethane (100 ml) and triethylamine (0.783 ml, 5.6 mmol). The mixture was stirred for 1 h at room temperature then 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene from Example E11 (676 mg, 3.4 mmol) was added. The mixture was heated at reflux for 2 days, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 2% methanol:98% EtOAc to 5% methanol:95% EtOAc) to yield the title compound (1.1 g, 62%).

reactant | 4-(3-{4-[(tert-butoxycarbonyl-cyclopropyl-amino)-methyl]-piperidin-1-yl}-3-oxo-propyl)-3-methyl-benzoic acid | C(C)(C)(C)OC(=O)N(C1CC1)CC1CCN(CC1)C(CCC1=C(C=C(C(=O)O)C=C1)C)=O | C25H36N2O5
reactant | triethylamine | 5.6 mmol, 0.783 ml | C(C)N(CC)CC | C6H15N
reactant | 3-methyl-3,4,9,10-tetrahydro-2,3,4,9-tetraaza-benzo[f]azulene | CN1N=CC=2CNC3=C(NC12)C=CC=C3 | C11H12N4
catalyst | DMAP | 2.8 mmol, 343 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Cyclopropyl-(1-{3-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperidin-4-ylmethyl)-carbamic Acid Tert-butyl Ester | 1.1 g, 62% | C(C)(C)(C)OC(N(CC1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O)C2CC2)=O | C36H46N6O4
